US07179830B2
g) 2,4-Dichloro-3-trifluoroacetylaminothiophene
A solution of 1.4 g of N-chlorosuccinimide in 25 ml of glacial acetic acid was added dropwise with stirring to a solution of 2.3 g of 4-chloro-3-trifluoroacetylaminothiophene in 60 ml of glacial acetic acid, the mixture was stirred at 40–45° C. for a further 35 minutes and the solvent was distilled off. The residue was admixed with water and extracted with ethyl acetate, the organic phase was washed with water and dried over sodium sulfate, and the solvent was distilled off. The residue was purified by column chromatography on silica gel using a mixture of 10 parts by volume of toluene and 2 parts by volume of n-heptane, and removed from the still unconverted monochloro compound.

reactant | N-chlorosuccinimide | 1.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-chloro-3-trifluoroacetylaminothiophene | 2.3 g | ClC=1C(=CSC1)NC(C(F)(F)F)=O | C6H3ClF3NOS
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2,4-Dichloro-3-trifluoroacetylaminothiophene | ClC=1SC=C(C1NC(C(F)(F)F)=O)Cl | C6H2Cl2F3NOS
